US05853699
c) 2,4-Bis-(4-hydroxybenzyl)-3-azaglutaric acid-diisopropyl ester
9.01 g (50.0 mmol) of 4-hydroxyphenylpyruvic acid and 9.06 g (50.0 mmol) of tyrosine are dissolved in 60 ml of methanol and stirred for six hours at 60° C. Then, it is allowed to cool to room temperature and 0.76 g (20 mmol) of sodium borohydride is added. It is allowed to stir overnight and then the reaction mixture is mixed carefully with diluted hydrochloric acid until no more gas generation can be observed. The reaction mixture is concentrated by evaporation and dried in an oil pump vacuum for several hours at 100° C. The residue is taken up in isopropanol. Hydrogen chloride gas is introduced until saturation is achieved, stirred for two hours at room temperature and then for eight hours at 85° C. Then, it is concentrated by evaporation, the residue is dispersed between ethyl acetate and sodium bicarbonate solution, the organic phase is dried on sodium sulfate, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with use of hexane/ethyl acetate as mobile solvent. The fractions that contain the pure product are combined and concentrated by evaporation.

reactant | 4-hydroxyphenylpyruvic acid | 50.0 mmol, 9.01 g | OC1=CC=C(C=C1)CC(C(=O)O)=O | C9H8O4
reactant | tyrosine | 50.0 mmol, 9.06 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | sodium borohydride | 20 mmol, 0.76 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | 2,4-Bis-(4-hydroxybenzyl)-3-azaglutaric acid-diisopropyl ester | C(C)(C)OC(C(NC(C(=O)OC(C)C)CC1=CC=C(C=C1)O)CC1=CC=C(C=C1)O)=O | C24H31NO6
